US07514582B2
2′-(3-Trifluoromethylphenylsulfonylaminomethyl)biphenyl-2-carboxylic acid benzylamide
From 0.28 mmol of 2′-aminomethylbiphenyl-2-carboxylic acid benzylamide (precursor 5 b) and 3-trifluoromethylphenylsulfonyl chloride, according to the general working procedure 131 mg of 21-(3-trifluoromethylphenyl-sulfonylaminomethyl)biphenyl-2-carboxylic acid benzylamide were obtained; m.p. 126° C. MS (ES+): m/e=525 (M+1).

reactant | 2′-aminomethylbiphenyl-2-carboxylic acid benzylamide | 0.28 mmol | C(C1=CC=CC=C1)NC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN | C21H20N2O
reactant | 3-trifluoromethylphenylsulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 2′-(3-Trifluoromethylphenylsulfonylaminomethyl)biphenyl-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CNS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C28H23F3N2O3S
